US05767116
A mixture of 8-hydroxy-1,4-benzodioxan-2-ylmethanol (10 g--prepared in a similar manner to that described in U.S. Pat. No. 3,101,354), sodium hydroxide (2.2 g) and water (150 ml) was stirred for 30 minutes, then cooled to 0° C. Methyl iodide (3.42 ml) was added dropwise, then the mixture was heated to 80° C. and stirred for 4 hours. The mixture was cooled to ambient temperature and stirred for 16 hours. The product was extracted into ethyl acetate (2×200 ml), and the combined extracts were washed with saturated sodium thiosulphate solution (2×200 ml), dried over magnesium sulphate, and the solvent removed in vacuo to yield 1-(8-methoxy-1,4-benzodioxan-2-yl)methanol as a solid (6.89 g)

reactant | 8-hydroxy-1,4-benzodioxan-2-ylmethanol | OC1=CC=CC2=C1OC(CO2)CO | C9H10O4
reactant | sodium hydroxide | 2.2 g | [OH-].[Na+]
reactant | Methyl iodide | 3.42 ml | CI | CH3I
solvent | water | 150 ml | O | H2O
product | 1-(8-methoxy-1,4-benzodioxan-2-yl)methanol | 6.89 g | COC1=CC=CC2=C1OC(CO2)CO | C10H12O4
